US07737138B2
N,N-Diethyl-methylaniline
To a 100 cm3 round bottom flask was added 3-ethylaniline (5.0 g, 41.3 mmol), ethanol (7.5 cm3), sodium carbonate (5.9 g, 55.7 mmol). Ethyl iodide (17.38 g, 111.4 mmol) was added dropwise. The mixture was then heated at 45° C. for 12 hours before cooling to room temperature and adding water (50 cm3). The mixture was extracted into diethyl ether (3×50 cm3) the extracts were dried over magnesium sulphate, filtered, and concentrated to give the title compound (7.03 g, 96%) as a light yellow oil. dH (250 MHz; CDCl3): 7.20 (1H, dd, 9, 7.25, ArH), 6.60 (3H, m, ArH), 3.43 (4H, q, 7, NCH2), 2.69 (2H, q, 7.25, CH2), 1.32 (3H, t, 7.5, CH3), 1.23 (6H, t, 7, CH3); dC (62.9 MHz; CDCl3): 12.7 (CH3), 15.8 (CH3), 29.5 (CH2), 44.4 (NCH3), 109.4 (ArC), 111.4 (ArC), 115.1 (ArC), 129.2 (ArC), 145.4 (ArC), 147.9 (ArC).

reactant | 3-ethylaniline | 41.3 mmol, 5.0 g | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | ethanol | 7.5 cm3 | C(C)O | C2H6O
reactant | sodium carbonate | 55.7 mmol, 5.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl iodide | 111.4 mmol, 17.38 g | C(C)I | C2H5I
solvent | water | 50 cm3 | O | H2O
product | N,N-Diethyl-methylaniline | 7.03 g, 96% | C(C)N(C1=C(C=CC=C1)C)CC | C11H17N
